US04785102
24.1 g (0.1 mole) of 4-hexyloxy-2,2,6,6-tetramethylpiperidine are dissolved in 100 ml of absolute methylene chloride. To this solution are added 15.2 g (0.15 mole) of absolute triethylamine and the whole solution is cooled to -10° C. At this temperature a solution of 16.8 g (0.1 mole) of phenylglyoxylyl chloride in 100 ml of methylene chloride is slowly added dropwise. When this addition is complete, the reaction mixture is allowed to warm to room temperature and stirred for about 4 hours. Precipitated hydrochloride is removed by filtration and the solution is clarified by filtration over a small amount of silica gel and concentrated by evaporation, affording 28.4 g of 1-(4-hexyloxy-2,2,6,6-tetramethylpiperidino)-2-phenylethane-1,2-dione as a yellow oil (stabiliser 1).

reactant | 4-hexyloxy-2,2,6,6-tetramethylpiperidine | 0.1 mole, 24.1 g | C(CCCCC)OC1CC(NC(C1)(C)C)(C)C | C15H31NO
reactant | triethylamine | 0.15 mole, 15.2 g | C(C)N(CC)CC | C6H15N
reactant | phenylglyoxylyl chloride | 0.1 mole, 16.8 g | C1(=CC=CC=C1)C(C(=O)Cl)=O | C8H5ClO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-hexyloxy-2,2,6,6-tetramethylpiperidino)-2-phenylethane-1,2-dione | 28.4 g | C(CCCCC)OC1CC(N(C(C1)(C)C)C(C(=O)C1=CC=CC=C1)=O)(C)C | C23H35NO3
